US07585535B2
1-Mercapto-1-phenylethane:
In a synthesis carried out according to Hoppe, et al., Angew. Chem. Int. Ed., 36(24), 2784 (1997), at room temperature, 2.1 g of lithium aluminum hydride and 100 mL of methyl tertiary butyl ether are added to a 250 mL round-bottom flask. To this suspension 18 g of thioacetic acid S-(1-phenyl-ethyl)ester in 50 mL MTBE is added. The mixture is stirred for 15 h at room temperature. 5 mL of ethyl acetate and 2.5 mL of sodium hydroxide (1 M in water) are added. The reaction mixture is filtered over a sodium sulphate plug. The filtrate is concentrated to give 13.7 g of a yellow liquid which is purified by distillation.

reactant | lithium aluminum hydride | 2.1 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | thioacetic acid S-(1-phenyl-ethyl)ester | 18 g | C1(=CC=CC=C1)C(C)SC(C)=O | C10H12OS
reactant | ethyl acetate | 5 mL | C(C)(=O)OCC | C4H8O2
reactant | sodium hydroxide | 1 M, 2.5 mL | [OH-].[Na+]
solvent | MTBE | 50 mL | CC(C)(C)OC | C5H12O
solvent | methyl tertiary butyl ether | 100 mL | C(C)(C)(C)OC | C5H12O
product | 1-Mercapto-1-phenylethane | 13.7 g | SC(C)C1=CC=CC=C1 | C8H10S
